US09238644B2
(b) tert-Butyl 1-(4-(4-((2-(1-carbamoylcyclopropyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)ethylcarbamate (A81)
A solution of 1-(2-ethynylphenyl)cyclopropanecarboxamide K6 (0.15 g, 0.81 mmol) in DMF (3 mL) was added to a reaction vessel containing tert-butyl 1-(4-(4-chloro-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)ethylcarbamate A80 (0.34 g, 0.81 mmol), PdCl2(PPh3)2 (0.028 g, 0.040 mmol) tri-tert-butylphosphonium tetrafluoroborate (0.023 g, 0.081 mmol) and copper(I)iodide (0.015 g, 0.081 mmol). The mixture was bubbled with nitrogen for 10 minutes before Et3N (1.5 mL) was added. The mixture was heated at 120° C. under microwave irradiation for 15 minutes. The volatiles were removed in vacuo and the residue was purified by silica gel column chromatography (Combiflash Rf, 0-100% EtOAc in cyclohexane) to give the title compound A81 as a yellow oil (0.26 g, 56%). LCMS-C: rt 5.80 min; m/z 566 [M+H]+.

reactant | 1-(2-ethynylphenyl)cyclopropanecarboxamide | C(#C)C1=C(C=CC=C1)C1(CC1)C(=O)N | C12H11NO
reactant | tert-butyl 1-(4-(4-chloro-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)ethylcarbamate | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C(C)NC(OC(C)(C)C)=O | C18H20ClF3N4O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.040 mmol, 0.028 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I)iodide | 0.081 mmol, 0.015 g | [Cu]I
product | tert-Butyl 1-(4-(4-((2-(1-carbamoylcyclopropyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)ethylcarbamate | C(N)(=O)C1(CC1)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C(C)NC(OC(C)(C)C)=O | C30H30F3N5O3
